US08461328B2
A 20 L reactor was charged with 10 L of dry THF and LiBH4 (400 g) and cooled to 0° C. A THF solution of (S)-dimethyl 2-(tert-butoxycarbonylamino)pentanedioate (1000 g/3.63 mol, dissolved in 2 L of dry THF) was then added dropwise while keeping the internal temp. below 15° C. The mixture was slowly warmed to room temperature and stirred for 16 h. Cooled to 0° C., then MeOH (10 L) was added dropwise to the reaction mixture to quench the excess amount of reducing reagent. Concentrated, and the residue was poured into 5 L water. After extraction with ethyl acetate, the combined organic phase was dried over Na2SO4. After filtration the solvent was removed in vacuo to give 730 g of crude (S)-tert-butyl 1,5-dihydroxypentan-2-ylcarbamate as a pale yellow oil.

reactant | THF | 10 L | C1CCOC1 | C4H8O
reactant | LiBH4 | 400 g | [Li+].[BH4-]
reactant | (S)-dimethyl 2-(tert-butoxycarbonylamino)pentanedioate | 3.63 mol, 2 L, 1000 g | C(C)(C)(C)OC(=O)N[C@H](C(=O)OC)CCC(=O)OC | C12H21NO6
solvent | MeOH | 10 L | CO | CH4O
product | (S)-tert-butyl 1,5-dihydroxypentan-2-ylcarbamate | 730 g | OC[C@H](CCCO)NC(OC(C)(C)C)=O | C10H21NO4
